Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
aspirin
 
Attending: ___.
 
Chief Complaint:
abdominal pain, melena
 
Major Surgical or Invasive Procedure:
___ EGD
___ Colonoscopy

 
History of Present Illness:
___ is a ___ year old male with a history of
Roux-en-Y gastric bypass with prior marginal ulceration
presenting with lower abdominal pain and maroon stool.  GI is
consulted for assistance in workup of etiology.

He was in his usual state of health until approximately last
___.  He then began to develop lower abdominal pain and
"burgundy" stools.  This is continued since the weekend.  He
reports that he had similar bleeding with his past ulcer, but
that this was considerably more severe than the current episode. 

He denies any melena.  The abdominal pain was crampy,
approximately ___, but is now resolved.  He denies any nausea 
or
emesis.  He has not been using any NSAIDs, and does not smoke. 
There is been no alcohol use.

ROS: A 10 point review of systems was performed in detail and
negative except as noted in the HPI.
 
Past Medical History:
Past Medical/Surgical History:
Roux-en-Y gastric bypass
Bowel obstruction due to trauma
Prior marginal ulcer with severe bleeding
Graves' status post ablation with hypothyroidism

 
Social History:
___
Family History:
 Denies any family history of colon cancer or stomach cancer. 
Mother with ___.  Multiple family members (cousins) with
alcoholic cirrhosis

 
Physical Exam:
VS: 97.3 PO 133 / 76 L Lying HR 82 RR18 ___ 98 RA 
GEN: no acute distress, lying comfortably in bed
HEENT: EOMI, MMM, oropharynx clear
CV: RRR, n S1,S2, no murmurs appreciated
PULM: CTAB, no respiratory distress
ABD: soft, NT, ND, no rebound tenderness or guarding
EXT: no lower extremity edema or tenderness, bilaterally

 
Pertinent Results:
___ 06:13AM BLOOD Hct-36.1*
___ 10:17AM BLOOD Hct-37.8*
___ 07:02AM BLOOD Hct-37.4*
___ 06:08AM BLOOD WBC-3.4* RBC-4.20* Hgb-11.7* Hct-36.3* 
MCV-86 MCH-27.9 MCHC-32.2 RDW-15.5 RDWSD-48.1* Plt ___
___ 03:40AM BLOOD Hct-35.7*
___ 11:50PM BLOOD Hct-35.9*
___ 08:25PM BLOOD WBC-4.5 RBC-3.79* Hgb-10.6* Hct-32.5* 
MCV-86 MCH-28.0 MCHC-32.6 RDW-15.3 RDWSD-47.5* Plt ___
___ 03:30PM BLOOD WBC-5.1 RBC-4.40* Hgb-12.4* Hct-37.3* 
MCV-85 MCH-28.2 MCHC-33.2 RDW-15.2 RDWSD-46.1 Plt ___
___ 06:08AM BLOOD Glucose-77 UreaN-10 Creat-0.8 Na-147 
K-4.1 Cl-109* HCO3-25 AnGap-13
___ 03:30PM BLOOD ALT-17 AST-22 AlkPhos-68 TotBili-0.4
___ 06:08AM BLOOD Calcium-8.4 Phos-4.1 Mg-2.2
___ 03:35PM BLOOD Lactate-1.2

___ Imaging CTA ABD/PEL W&W/O C W/R  IMPRESSION:  
No acute abnormality in the abdomen or pelvis. 

___ EGD
Previous Roux-en-y gastrojejunostomy of the stomach
Excluded stomach (body/antrum) not seen
Duodenum not seen
Ulcer in the jejunum just distal to the anastamosis
Otherwise normal EGD to third part of the duodenum

___ colonoscopy
 No blood seen
High residue material clogging suction
Otherwise normal colonoscopy to cecum and terminal ileum 

 
Brief Hospital Course:
___ s/p RNY gastric bypass ___ ___ c/b marginal 
ulcer GI bleed in ___ requiring ICU admission, presented with 
lower abd pain and melena. H/h stable throughout admission. EGD 
showed jejunal ulcer; colonoscopy did not reveal any 
abnormalities. CT a/p unremarkable. Patient tolerated regular 
diet well, with resolution of abdominal pain and no further 
episodes of melena. He was discharged on PO daily pantoprazole 
and sucralfate. Patient was given prescriptions of both 
medications and educated on importance of medication adherence 
and close PCP ___. (sucralfate prescription was handed to 
patient after discharge paperwork was finalized). Patient voiced 
understanding and agrees with the plan.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Levothyroxine Sodium 150 mcg PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
2.  Levothyroxine Sodium 150 mcg PO DAILY  
3.  sucralfate [Carafate]  Carafate 100 mg/mL oral suspension
10 ml by mouth four times a day  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Jejunal ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted because you had stomach pain and melena (black 
stools). We were concerned about bleeding in your GI tract. You 
were started on a medication that protects your stomach 
(pantoprazole), and your blood levels were monitored and stable.

While you were here you underwent an upper endoscopy, which 
found an ulcer in your jejunum. You also underwent a colonoscopy 
which did not find any abnormalities. You received imaging of 
your abdomen which did not show any abnormalities.

New medications: 
Pantoprazole 40mg daily. It is very important that you take this 
medication to help prevent further stomach/intestinal ulcers.

It was a pleasure taking care of you.
Your ___ Care team
 
Followup Instructions:
___